US07968570B2
5-(3-Dimethylamino-prop-1-ynyl)-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one
5-Bromo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (50 mg, 0.125 mmol), 1-dimethylamino-2-propyne (194 μL, 0.14 mmol), trimethylacteylene (20 μL, 0.14 mmol), Pd(PPh3)2Cl2 (1.9 mg, 0.003 mmol) and copper iodide (1.0 mg, 0.006 mmol) were stirred together at 120° C. for 30 minutes. The reaction was cooled and partitioned between aqueous NaHCO3 and EtOAc, and the organic was washed with 1N HCl and then basified with 1N NaOH, extracting with EtOAc. The solvent was removed under reduced pressure and purified on silica (2% ammonia in MeOH/EtOAc) to afford 2.8 mg (6%) of a yellow oil. 1H NMR (300 MHz, CDCl3): δ 7.34 (d, 2H), 7.29 (d, 2H), 7.20 (d, 2H), 4.78 (s, 2H), 4.22 (s, 2H), 3.49 (s, 2H), 2.74 (s, 3H), 2.38 (s, 6H).

reactant | 5-Bromo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.125 mmol, 50 mg | BrC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C17H13BrF3NO2
reactant | 1-dimethylamino-2-propyne | 0.14 mmol, 194 μL | CN(CC#C)C | C5H9N
catalyst | Pd(PPh3)2Cl2 | 0.003 mmol, 1.9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.006 mmol, 1.0 mg | [Cu](I)I
product | 5-(3-Dimethylamino-prop-1-ynyl)-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 2.8 mg, 6% | CN(CC#CC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F)C | C22H21F3N2O2
